US09062056B2
(S)-3-(5-Methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-hexanoic acid ethyl ester
To a solution of (S)-3-(3-amino-6-methyl-pyridin-2-ylamino)-hexanoic acid ethyl ester (350 mg, 1.32 mmol) in THF (10 mL) was added N,N′-carbonyldiimidazole (CDI) (321 mg, 2.0 mmol). The reaction mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated. The resulting residue was purified by silica gel preparative TLC using 95:5 CH2Cl2:MeOH as an eluent to afford 247 mg (64%) of the title compound as a light brown oily residue. LCMS, M++1, m/z: 292.59.

reactant | (S)-3-(3-amino-6-methyl-pyridin-2-ylamino)-hexanoic acid ethyl ester | 1.32 mmol, 350 mg | C(C)OC(C[C@H](CCC)NC1=NC(=CC=C1N)C)=O | C14H23N3O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-3-(5-Methyl-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-hexanoic acid ethyl ester | 247 mg, 64% | C(C)OC(C[C@H](CCC)N1C(NC=2C1=NC(=CC2)C)=O)=O | C15H21N3O3
